US08097623B2
(a) 1-(4-Isopropoxyphenylamino)-2-methoxycarbonylvinylbenzoic acid methyl ester
The sub-title compound was prepared in accordance with step (a) Example 1 from p-isopropoxyaniline and 4-methoxycarbonylbenzoyl acetic acid methyl ester.

reactant | p-isopropoxyaniline | C(C)(C)OC1=CC=C(N)C=C1 | C9H13NO
reactant | 4-methoxycarbonylbenzoyl acetic acid methyl ester | COC(CC(C1=CC=C(C=C1)C(=O)OC)=O)=O | C12H12O5
product | 1-(4-Isopropoxyphenylamino)-2-methoxycarbonylvinylbenzoic acid methyl ester | COC(C1(C(C=CC=C1)C=CC(=O)OC)NC1=CC=C(C=C1)OC(C)C)=O | C21H25NO5
